data/oMe_Silver.jsonl
{"reaction_id": "NR-009_1-c2ccccc2_2-C#N_3-c2ccncc2","name": "Baker-Venkataraman rearrangement","level": "medium","reactants_smiles": ["C(c2ccccc2)(C#N)C(=O)c1ccccc1OC(=O)c2ccncc2"],"products_smiles": ["c2ccncc2C(=O)C(c2ccccc2)(C#N)C(=O)c1ccccc1O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](c2ccccc2)(C#N)C(=O)c1ccccc1OC(=O)c2ccncc2","rationale": "The base abstracts the acidic α-proton next to the ketone, as the resulting enolate is resonance-stabilized by the adjacent carbonyl and aromatic ring."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c12c(cccc1)OC([O-])(c2ccncc2)C(c2ccccc2)(C#N)C2=O","rationale": "The nucleophilic enolate oxygen attacks the electrophilic ester carbonyl, favored by intramolecular proximity and the polarization of the C=O bond."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c2ccncc2C(=O)C(c2ccccc2)(C#N)C(=O)c1ccccc1[O-]","rationale": "The alkoxide intermediate expels the phenoxide leaving group, driven by the stability of phenoxide and formation of a conjugated 1,3-diketone system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c2ccncc2C(=O)C(c2ccccc2)(C#N)C(=O)c1ccccc1O","rationale": "The phenoxide anion is protonated under the reaction conditions to yield the neutral phenol product, favored by the phenol's resonance stabilization."}],"description": "Under basic conditions, the α-proton adjacent to the ketone is deprotonated to form an enolate, which attacks the ester carbonyl intramolecularly. This rearranges via acyl transfer to yield the 1,3-diketone phenol product after elimination and protonation."}
{"reaction_id": "NR-107_1-C(F)(F)F_2-c1ccc(OC)cc1_3-c1ccccc1C_4-c1ccc(OC(C)(C)C)cc1_5-CC_6-c1ccc(F)cc1C_7-CC#N","level": "medium","name": "Hofmann Elimination","reactants_smiles": ["C(C(F)(F)F)(c1ccc(OC)cc1)C(c1ccccc1C)(c1ccc(OC(C)(C)C)cc1)[N+](CC)(c1ccc(F)cc1C)CC#N","[OH-]"],"products_smiles": ["C(=C(c1ccccc1C)c1ccc(OC(C)(C)C)cc1)(C(F)(F)F)c1ccc(OC)cc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(c1ccccc1C)c1ccc(OC(C)(C)C)cc1)(C(F)(F)F)c1ccc(OC)cc1","step_weight": 0,"rationale": "Hydroxide abstracts the least hindered β-hydrogen anti-periplanar to the bulky ammonium group; the excellent leaving ability of the quaternary ammonium drives E2 elimination, yielding the less substituted alkene favored by steric effects."}],"description": "Under strong base and heat, the quaternary ammonium group undergoes Hofmann elimination, favoring the less substituted alkene due to steric hindrance and anti-periplanar geometry requirements. Hydroxide abstracts a β-proton, facilitating elimination of the bulky ammonium leaving group."}
{"reaction_id": "NR-144_1-c1ccccc1_2-c1ccc(C(F)(F)F)cc1_3-C#N_4-C_5-OCC","name": "Michael Addition","level": "medium","reactants_smiles": ["C(c1ccccc1)(c1ccc(C(F)(F)F)cc1)=C(C#N)C(=O)OCC","S([H])C"],"products_smiles": ["S(C)C(c1ccccc1)(c1ccc(C(F)(F)F)cc1)C(C#N)C(=O)OCC"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[S-]C","rationale": "Base abstracts the acidic proton from the thiol due to sulfur’s relatively low pKa, generating a thiolate anion with high nucleophilicity."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(C)C(c1ccccc1)(c1ccc(C(F)(F)F)cc1)C(C#N)=C([O-])OCC","rationale": "The thiolate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)C(c1ccccc1)(c1ccc(C(F)(F)F)cc1)C(C#N)C(=O)OCC","rationale": "The enolate intermediate is protonated to form the neutral thioether, driven by the thermodynamic stability of the carbonyl group."}],"description": "Under basic conditions, the thiol is deprotonated to form a strong nucleophile, which undergoes conjugate (Michael) addition to the α,β-unsaturated carbonyl. The resulting enolate intermediate is then protonated to yield the stable thioether product."}
